* Circuit simulation lab 2 t>0


* current values are saved
.options savecurrents

* voltage source aqui como dc é 0 sobra só isto
Vd 1 0 sin (0 1 1k 0 0 0);
*resistors
R1 2 1 1.02604398505k;
R2 2 3 2.03674964113k;
R3 2 5 3.09851037606k;
R4 5 0 4.10284190715k;
R5 6 5 3.13763431318k;
R6 7 0 2.01979218864k;
R7 9 8 1.03837216927k;
*voltage controlled current source(Ib)
G1 6 3 2 5 7.03552682478m;
*voltage source to sense control current (Id)
*series with the rest of the circuit for the current sensed to be the same as the resistor
V2 7 9 dc 0;
*current controlled voltage source(Vd)
H1 5 8 v2 8.12635172903k;
C1 6 8 1.0462067838uF;
******************
.ic v(6) = 8.830558  v(8) = 0
.control

set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

tran 0.02m 20m 0 uic
hardcopy tot.ps v(6) v(1)
echo tot_FIG
quit
.endc
.end